* c:\users\amisha\esim-workspace\frequency_divider_amisha\frequency_divider_amisha.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
xsc2 net-_sc1-pad1_ clk gnd gnd sky130_fd_pr__nfet_01v8 
xsc5 net-_sc4-pad1_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc8 clk net-_sc4-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ clk net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc4 net-_sc4-pad1_ net-_sc1-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc7 clk net-_sc4-pad1_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc3 net-_sc1-pad1_ gnd sky130_fd_pr__cap_mim_m3_1 W=110500 L=10000 MF=1
xsc6 net-_sc4-pad1_ gnd sky130_fd_pr__cap_mim_m3_1 W=110500 L=10000 MF=1
xsc9 clk gnd sky130_fd_pr__cap_mim_m3_1 W=110500 L=10000 MF=1
v1 net-_sc1-pad3_ gnd  dc 2.5
* u3  clk net-_u1-pad1_ adc_bridge_1
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ amisha_frequency_divider
* u4  net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ a b c dac_bridge_3
* u2  clk plot_v1
* u5  a plot_v1
* u6  b plot_v1
* u7  c plot_v1
* s c m o d e
a1 [clk ] [net-_u1-pad1_ ] u3
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] u1
a3 [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] [a b c ] u4
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             amisha_frequency_divider, NgSpice Name: amisha_frequency_divider
.model u1 amisha_frequency_divider(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 50e-03 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk) v(a)+6 v(b)+12 v(c)+18
.endc
.end
